US07834019B2
1) Production of 1-methyl-N-(2-methyl-4-nitrophenyl)piperidine-4-amine
In the same manner as in Production Example 5-1 but using 1-methylpiperidine-4-amine in place of N-ethylpiperazine used in Production Example 5-1, using 2-fluoro-5-nitrotoluene in place of 2-fluoro-5-nitrobenzyl alcohol and using dimethylsulfoxide in place of N-methylpyrrolidone, 1.2 g of the entitled compound was obtained as a yellow solid.

reactant | 1-methylpiperidine-4-amine | CN1CCC(CC1)N | C6H14N2
reactant | 2-fluoro-5-nitrotoluene | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 1-methyl-N-(2-methyl-4-nitrophenyl)piperidine-4-amine | 1.2 g | CN1CCC(CC1)NC1=C(C=C(C=C1)[N+](=O)[O-])C | C13H19N3O2
